US07759337B2
Synthesis of N-cyclopropyl-3-(1-(3-hydroxypyrolidin-1-yl)phthalazin-6-yl)-4-methylbenzamide
A mixture of 1-(6-bromophthalazin-1-yl)pyrrolidin-3-ol (0.11 g, 0.37 mmol), N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (0.11 g, 0.37 mmol), tetrakis(triphenylphosphine)palladium (22 mg, 0.019 mmol) and 2M potassium carbonate (0.6 mL, 1.2 mmol) in 5 mL DME/EtOH (4:1) was stirred at 90° C. for 2 h. The mixture was directly purified via flash chromatography (silica gel) eluting with 2% 2M ammonia in MeOH/DCM (0.13 g) to afford the title compound as a yellow solid. Found MS (ES+): 389(M+H)+.

reactant | 1-(6-bromophthalazin-1-yl)pyrrolidin-3-ol | 0.37 mmol, 0.11 g | BrC=1C=C2C=NN=C(C2=CC1)N1CC(CC1)O | C12H12BrN3O
reactant | N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 0.37 mmol, 0.11 g | C1(CC1)NC(C1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)=O | C17H24BNO3
reactant | potassium carbonate | 1.2 mmol, 2M, 0.6 mL | C([O-])([O-])=O.[K+].[K+]
solvent | DME EtOH | 5 mL | COCCOC.CCO
catalyst | tetrakis(triphenylphosphine)palladium | 0.019 mmol, 22 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-cyclopropyl-3-(1-(3-hydroxypyrolidin-1-yl)phthalazin-6-yl)-4-methylbenzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)N1CC(CC1)O)=O | C23H24N4O2
